US04922021
31.4 ml (46.6 g, 0.4 moles) of methanesulfonyl chloride are added dropwise, within one hour, to a solution of 94.5 g (0.368 moles) of 1-[N-(2,6-dimethylphenyl)-methane-sulfonamido]-2-propanol and 55.3 ml (40.5 g, 0.4 moles) of trietyl amine in 600 ml of 1,2-dichloroethane. During the addition the mixture is cooled with ice to maintain its temperature at 10°-12° C. The mixture is stirred at room temperature for additional 4 hours and then washed thrice with 100 ml of water, each. The dichloroethane solution is dried over anhydrous magnesium sulfate, the solvent is evaporated under reduced pressure, and the thick, oily residue is triturated with 120 ml of isopropanol. The resulting crystals are filtered off, washed with ice-cold isopropanol and dried. 93.2 g (75.8%) of 1-[N-(2,6-dimethylphenyl)-methane-sulfonamido]-2-methanesulfonyloxy-propane are obtained as a white, crystalline substance melting at 111°-114° C.

reactant | methanesulfonyl chloride | 0.4 moles, 31.4 ml, 46.6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-[N-(2,6-dimethylphenyl)-methane-sulfonamido]-2-propanol | 0.368 moles, 94.5 g | CC1=C(C(=CC=C1)C)N(S(=O)(=O)C)CC(C)O | C12H19NO3S
reactant | trietyl amine | 0.4 moles, 55.3 ml, 40.5 g | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 600 ml | ClCCCl | C2H4Cl2
product | 1-[N-(2,6-dimethylphenyl)-methane-sulfonamido]-2-methanesulfonyloxy-propane | 93.2 g, 75.8% | CC1=C(C(=CC=C1)C)N(S(=O)(=O)C)CC(C)OS(=O)(=O)C | C13H21NO5S2
